US05374641
p-Hydroxybenzaldehyde (4.88 g), bromoacetic acid (6.68 g) and potassium carbonate (5.53 g) were suspended in 100 ml of acetone, and refluxed for 15 hours. After the solvent was distilled off under reduced pressure, water was added followed by extraction with methylene chloride. The organic phase was washed in saturated aqueous sodium chloride, and dried over magnesium sulfate. After distillation of the solvent under reduced pressure, 8.32 g of ethyl 4-formylphenoxyacetate was obtained.

reactant | p-Hydroxybenzaldehyde | 4.88 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | bromoacetic acid | 6.68 g | BrCC(=O)O | C2H3BrO2
reactant | potassium carbonate | 5.53 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 100 ml | CC(=O)C | C3H6O
product | ethyl 4-formylphenoxyacetate | 8.32 g | C(=O)C1=CC=C(OCC(=O)OCC)C=C1 | C11H12O4
